US07754737B2
Solid Teoc-OSu (390 mg, 1.5 mmol) was added to a vigorously stirred 2-phase mixture of (2S)-2-(tert-butoxycarbonylamino)-1-butylamino-3-cyclohexylpropane (312.8 mg, 1.0 mmol), Na2CO3 (525 mg, 5.0 mmol), H2O (5.0 mL), and CH2Cl2 (25.0 mL). The mixture was stirred for 90 min at rt and the reaction was taken up in CH2Cl2 (50 mL), washed with brine (3×10 mL), dried over Na2SO4, decanted, and stripped to give a clear oil. This oil was separated on a 4 g SiO2 column to give crude (2S)-2-(tert-butoxycarbonylamino)-1-(N-butyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-cyclohexylpropane (486.5 mg, 106%) as a clear oil (quant). MS ESI+ve m/z 479 (M+Na). The crude product was used without further purification.

reactant | Teoc-OSu | 1.5 mmol, 390 mg | C(=O)(OCC[Si](C)(C)C)ON1C(=O)CCC1=O | C10H17NO5Si
reactant | (2S)-2-(tert-butoxycarbonylamino)-1-butylamino-3-cyclohexylpropane | 1.0 mmol, 312.8 mg | C(C)(C)(C)OC(=O)N[C@H](CNCCCC)CC1CCCCC1 | C18H36N2O2
reactant | Na2CO3 | 5.0 mmol, 525 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 5.0 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25.0 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-(tert-butoxycarbonylamino)-1-(N-butyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-cyclohexylpropane | 486.5 mg, 106% | C(C)(C)(C)OC(=O)N[C@H](CN(C(=O)OCC[Si](C)(C)C)CCCC)CC1CCCCC1 | C24H48N2O4Si
